US04857467
Transformation of Pichia pastoris and Screening of Sucrose+ (Suc+) Transformants
Pichia strains GTS115 (NRRL Y-15851) and NRRL Y-11430 were transformed according to the procedure of Example I. The transformed spheroplasts were allowed to regenerate on either 0.6M KCl or 1M Sorbitol containing regeneration media. For screening Suc+ colonies, the regenerated cells embedded in agar were carefully dislodged into a sterile 50 mL disposable centrifuge tube, mixed with 10 ml water, and vortexed to disperse the cells from agar. The agar-cells suspension was passed through several folds of sterilized cheesecloth. The agar chunks retained on the cheesecloth were rinsed two times with 10 mL water to recover cells trapped in agar and cloth. The filtrate containing cells and fine agar particles was centrifuged at 5000 rpm in HS-4 rotor for five minutes at room temperature. Under these conditions, cells formed a tight pellet, while agar particles formed a loose pellet on the top of cells. The agar layer was removed by disturbing the tubes gently and pouring off the milky supernatant solution. The tight cell pellet remaining in the tube was suspended in 5 mL water and aliquots were plated on MSu to screen for Suc+ transformants.

reactant | KCl | 0.6M | [Cl-].[K+]
reactant | Sorbitol | 1M | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | water | 10 ml | O | H2O
product | Sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
